US06057316
4.5-Dimethyl-2-furaldehyde
According to the procedure of S. F. Martin, et al. J. Org. Chem. 1984, 49, 2512-2516, phosphorus oxychloride (10.7 mL, 114.4 mmol) was added dropwise to a stirred, ambient temperature solution of 2,3-dimethylfuran (10 g, 104 mmol) in DMF (150 mL) under a dry nitrogen atmosphere over a period of 30 min. After 3 h., the reaction mixture was hydrolized with 2.5 N aq. sodium hydroxide and further diluted with water (50 mL). Aqueous mixture was extracted with dichloromethane (2×300 mL). The combined dichloromethane extracts were washed with water, dried with brine and purified by silica gel flash chromatography (eluent: ethyl acetate) to provide a yellow oil (9.8 g, 76%); MS (ESI): [M+H]+, 125.1.

reactant | phosphorus oxychloride | 114.4 mmol, 10.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dimethylfuran | 104 mmol, 10 g | CC=1OC=CC1C | C6H8O
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4.5-Dimethyl-2-furaldehyde | 9.8 g, 76% | CC=1C=C(OC1C)C=O | C7H8O2
